US05045229
A mixture of 0.1 mol of trifluoroacetylphenol, 0.11 mol of trans-4-pentylcyclohexylmethyl bromide, 0.3 mol of K2CO3 and 250 ml DMF is heated at 140° C. for 10 hours. Customary work-up and crystallization give 4-(trans-4-pentylcyclohexylmethoxy)-1-trifluoroacetylbenzene, mp. 60° C., Δε=13.7.

reactant | trifluoroacetylphenol | 0.1 mol | FC(C(=O)C1=C(C=CC=C1)O)(F)F | C8H5F3O2
reactant | trans-4-pentylcyclohexylmethyl bromide | 0.11 mol | C(CCCC)[C@@H]1CC[C@H](CC1)CBr | C12H23Br
reactant | K2CO3 | 0.3 mol | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 250 ml | CN(C)C=O | C3H7NO
product | 4-(trans-4-pentylcyclohexylmethoxy)-1-trifluoroacetylbenzene | C(CCCC)[C@@H]1CC[C@H](CC1)COC1=CC=C(C=C1)C(C(F)(F)F)=O | C20H27F3O2
